US06232025B1
Poly(bisphenol-Z-benzophenone) (P(BPZ-BNZPH))
In a three neck 500 mL round-bottom flask was weighed bisphenol-Z (35.0000 g, 130.42 mmol), potassium carbonate (36.0505 g, 260.45 mmol), 4,4′-difluorobenzophenone (28.4587 g, 130.42 mmol), toluene (115 g) and N,N-dimethylacetamide (233 g). The flask was fitted with a condenser and a thermometer. The light yellow mixture was stirred and heated to reflux. The water formed was azeotropically distilled with toluene. On complete removal of water and toluene, the solution was stirred at reflux for about 2 hours. The viscous polymer solution was precipitated in water, and a white fibrous polymer was isolated by filtration. The white polymer was stirred in boiling water for about 1 hour, filtered, and then stirred in boiling methanol for about 1 hour and filtered. The fibrous white polymer was then dried in an vacuum oven for about 16 hours at 100° C. The yield was about 54.35 g. The number average molecular weight of the polymer was about 11.5 K.

reactant | bisphenol-Z | 130.42 mmol, 35.0000 g | C1CCC(CC1)(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O | C18H20O2
reactant | potassium carbonate | 260.45 mmol, 36.0505 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,4′-difluorobenzophenone | 130.42 mmol, 28.4587 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | toluene | 115 g | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | N,N-dimethylacetamide | 233 g | CN(C(C)=O)C | C4H9NO
product | bisphenol-Z benzophenone | C1CCC(CC1)(C2=CC=C(C=C2)O)C3=CC=C(C=C3)O.C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | InChI=1S/C18H20O2.C13H10O/c19-16-8-4-14(5-9-16)18(12-2-1-3-13-18)15-6-10-17(20)11-7-15;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h4-11,19-20H,1-3,12-13H2;1-10H
